US05840911
b) 1,2-Diamino-4-ethyl-imidazole hydrochloride
A mixture of 4.29 g (0.02 mol) of 2-amino-1-benzylideneamino-4-ethyl-imidazole and 25 ml of 2N hydrochloric acid is heated to 120° C. and subjected to steam distillation for one hour. The distillation residue is cooled and then concentrated to dryness by evaporation, and the residue is crystallized from ethanol/ethyl acetate. In that manner there is obtained the title compound, m.p. 124°-125° C., 1H-NMR (DMSO/D2 0) δ=6.53 (s, 1H); 2.36 (q, 2H); 1.07 (t, 3H).

reactant | 2-amino-1-benzylideneamino-4-ethyl-imidazole | 0.02 mol, 4.29 g | NC=1N(C=C(N1)CC)N=CC1=CC=CC=C1 | C12H14N4
reactant | hydrochloric acid | 2N, 25 ml | Cl | ClH
product | 1,2-Diamino-4-ethyl-imidazole hydrochloride | Cl.NN1C(=NC(=C1)CC)N | InChI=1S/C5H10N4.ClH/c1-2-4-3-9(7)5(6)8-4;/h3H,2,7H2,1H3,(H2,6,8);1H
